### PR TITLE
feat: add intersection on `DTreeMap`/`TreeMap`/`TreeSet`

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR provides intersection on `DTreeMap`/`TreeMap`/`TreeSet`and provides several lemmas about it.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ✅ Mathlib branch [lean-pr-testing-11165](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11165) has successfully built against this PR. (2025-11-13 20:31:54) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19343482990)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1f807969b79c29033766df799a2a6a82ef63c122 --onto 5a4226f2bdcc6299df76285b1d30f238546c09fe`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-18 12:52:11)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 03eb2f73ac1ee83e720b80081c6c1b4580d2a914 --onto 5a4226f2bdcc6299df76285b1d30f238546c09fe`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-18 15:51:14)

File: src/Std/Data/DTreeMap/Basic.lean [hunk 1]
```diff
@@ -1044,6 +1044,15 @@ def union (t₁ t₂ : DTreeMap α β cmp) : DTreeMap α β cmp :=
 
 instance : Union (DTreeMap α β cmp) := ⟨union⟩
 
+/--
+Computes the intersection of the given hash maps. The result will only contain entries from the first map.
+
+This function always merges the smaller map into the larger map.
+-/
+def inter (t₁ t₂ : DTreeMap α β cmp) : DTreeMap α β cmp :=
+    letI : Ord α := ⟨cmp⟩; ⟨t₁.inner.inter t₂.inner t₁.wf.balanced,  @Impl.WF.inter _ _ _ _ t₂.inner t₁.wf.balanced t₁.wf⟩
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean]: Indentation

File: src/Std/Data/DTreeMap/Basic.lean [hunk 2]
```diff
@@ -1044,6 +1044,15 @@ def union (t₁ t₂ : DTreeMap α β cmp) : DTreeMap α β cmp :=
 
 instance : Union (DTreeMap α β cmp) := ⟨union⟩
 
+/--
+Computes the intersection of the given hash maps. The result will only contain entries from the first map.
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean]:
```suggestion
Computes the intersection of the given tree maps. The result will only contain entries from the first map.
```
Also in other files

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 3]
```diff
@@ -772,6 +772,26 @@ def filter! [Ord α] (f : (a : α) → β a → Bool) (t : Impl α β) : Impl α
     | false => link2! (filter! f l) (filter! f r)
     | true => link! k v (filter! f l) (filter! f r)
 
+/-- Internal implementation detail of the tree map -/
+@[inline]
+def interSmallerFn [Ord α] (m : Impl α β) (sofar : { t : Impl α β // t.Balanced } ) (k : α) : { res : Impl α β // res.Balanced }:=
+   match m.getEntry? k with
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]:
```suggestion
  match m.getEntry? k with
```

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 4]
```diff
@@ -772,6 +772,26 @@ def filter! [Ord α] (f : (a : α) → β a → Bool) (t : Impl α β) : Impl α
     | false => link2! (filter! f l) (filter! f r)
     | true => link! k v (filter! f l) (filter! f r)
 
+/-- Internal implementation detail of the tree map -/
+@[inline]
+def interSmallerFn [Ord α] (m : Impl α β) (sofar : { t : Impl α β // t.Balanced } ) (k : α) : { res : Impl α β // res.Balanced }:=
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]:
```suggestion
def interSmallerFn [Ord α] (m : Impl α β) (sofar : { t : Impl α β // t.Balanced }) (k : α) : { res : Impl α β // res.Balanced } :=
```

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 5]
```diff
@@ -848,6 +868,16 @@ theorem balanced_modify [Ord α] [LawfulEqOrd α] {k f} {t : Impl α β} (ht : t
...
+theorem balanced_inter [Ord α] {t₁ t₂ : Impl α β} (ht : t₁.Balanced) : (t₁.inter t₂ ht).Balanced := by
+  rw [inter]
+  split
+  · generalize (filter (fun k x => contains k t₂) t₁ ht) = m
+    exact m.balanced_impl
+  · rw [interSmaller]
+    generalize (foldl (fun sofar k x => t₁.interSmallerFn sofar k) ⟨empty, _⟩ t₂) = m
+    exact m.2
+
+
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]:
```suggestion
```

File: src/Std/Data/TreeMap/Raw/WF.lean [hunk 6]
```diff
@@ -119,4 +119,8 @@ theorem union [TransCmp cmp] {t₁ t₂ : Raw α β cmp} (h₁ : t₁.WF) (h₂
   (t₁.union t₂).WF :=
   ⟨InnerWF.union h₁ h₂⟩
 
+theorem inter [TransCmp cmp] {t₁ t₂ : Raw α β cmp} (h₁ : t₁.WF) :
+  (t₁.inter t₂).WF :=
```
Comment (TwoFX) [inline src/Std/Data/TreeMap/Raw/WF.lean]:
```suggestion
    (t₁.inter t₂).WF :=
```

File: src/Std/Data/TreeSet/Raw/WF.lean [hunk 7]
```diff
@@ -83,4 +83,8 @@ theorem union [TransCmp cmp] {t₁ t₂ : Raw α cmp} (h₁ : t₁.WF) (h₂ : t
   (t₁.union t₂).WF :=
   ⟨InnerWF.union h₁ h₂⟩
 
+theorem inter [TransCmp cmp] {t₁ t₂ : Raw α cmp} (h₁ : t₁.WF) :
+  (t₁.inter t₂).WF :=
```
Comment (TwoFX) [inline src/Std/Data/TreeSet/Raw/WF.lean]:
```suggestion
    (t₁.inter t₂).WF :=
```

File: src/Std/Data/DTreeMap/Raw/WF.lean [hunk 8]
```diff
@@ -161,4 +161,8 @@ theorem union [TransCmp cmp] {t₁ t₂ : Raw α β cmp} (h₁ : t₁.WF) (h₂
     (t₁.union t₂).WF :=
   ⟨Impl.WF.union! h₁.out h₂.out⟩
 
+theorem inter [TransCmp cmp] {t₁ t₂ : Raw α β cmp} (h₁ : t₁.WF) :
+    (t₁.inter t₂).WF :=
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Raw/WF.lean]: This and all similar lemmas should be stated in terms of `∩` rather than `inter`.

**Comment by wkrozowski** [comment]
@TwoFX Okay, fixed the things you have brought up.

File: src/Std/Data/DTreeMap/Basic.lean (hunk 1 above)
Comment (TwoFX) [reply src/Std/Data/DTreeMap/Basic.lean]: Still not fixed
```suggestion
  letI : Ord α := ⟨cmp⟩; ⟨t₁.inner.inter t₂.inner t₁.wf.balanced,  @Impl.WF.inter _ _ _ _ t₂.inner t₁.wf.balanced t₁.wf⟩
```
